US07446222B2
d) (2-Benzyloxy-5-chloro-[1,1′;2′1″]terphenyl-3″-yl)-acetic acid
A solution of (2-benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-3″-yl)-acetic acid ethyl ester (112 mg, 0.25 mmol) in ethanol (5 ml) and 2M sodium hydroxide (1 ml, 2 mmol) was stirred at room temperature for 1 hour then diluted with water and 1:1 diethyl ether/iso-hexane. The aqueous suspension was separated, acidified with 1M hydrochloric acid and extracted with diethyl ether. The organic solution was dried (MgSO4) evaporated to dryness and the residue triturated with iso-hexane to give the title compound as a white solid (86 mg, 80%).

reactant | (2-benzyloxy-5-chloro-[1,1′;2′,1″]terphenyl-3″-yl)-acetic acid ethyl ester | 0.25 mmol, 112 mg | C(C)OC(CC=1C=C(C=CC1)C=1C(=CC=CC1)C1=C(C=CC(=C1)Cl)OCC1=CC=CC=C1)=O | C29H25ClO3
reactant | sodium hydroxide | 2 mmol, 2M, 1 ml | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | diethyl ether iso-hexane | C(C)OCC.CCCC(C)C
product | (2-Benzyloxy-5-chloro-[1,1′;2′1″]terphenyl-3″-yl)-acetic acid | 86 mg, 80% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)Cl)C=1C(=CC=CC1)C1=CC(=CC=C1)CC(=O)O | C27H21ClO3
